US06774248B2
5-Chloro-2-(4-methoxy-phenyl)-benzofuran 82
A solution of 4-Chloro-2-Iodophenol [71643-66-8] (1.0 g, 3.9 mmol), 4-Methoxyphenylacetylene (0.53 g, 4.0 mmol), PdCl2P(PH3)2 (70 mg), and CuI (50 mg) in DMF/Diethylamine (10 ml) was heated to 60° C. After 1 hr, the reaction was cooled and poured into water which was extracted with EtOAc. The organic layer was dried, concentrated to give a solid which was triturated with MeOH, filtered to give a solid (0.5 g, 50%): Mp=183-185° C.; 1H NMR (CDCl3) δ 7.76 (d, 2 H, J=8.0 Hz), 7.50 (d, 1 H, J=1.6 Hz), 7.39 (d, 1 H, J=8.3 Hz), 7.20-7.18 (m, 1 H), 6.97 (d, 2 H, J=8.3 Hz), 6.82 (s, 1 H), 3.86 (s, 3 H).

reactant | 4-Chloro-2-Iodophenol | 3.9 mmol, 1.0 g | ClC1=CC(=C(C=C1)O)I | C6H4ClIO
reactant | 4-Methoxyphenylacetylene | 4.0 mmol, 0.53 g | COC1=CC=C(C=C1)C#C | C9H8O
reactant | water | O | H2O
solvent | DMF Diethylamine | 10 ml | CN(C)C=O.C(C)NCC
catalyst | CuI | 50 mg | [Cu]I
product | 5-Chloro-2-(4-methoxy-phenyl)-benzofuran | 0.5 g, 50% | ClC=1C=CC2=C(C=C(O2)C2=CC=C(C=C2)OC)C1 | C15H11ClO2
